US08729078B2
4-Bromo-1-methyl-1H-pyrrole-2-carboxylic acid (122 mg, 0.60 mmol), HATU (274 mg, 0.72 mmol) and DIEA (194 mg, 1.50 mmol) were dissolved in DMF (5 mL). The reaction mixture was stirred at room temperature with ammonia gas bubbled through continuously overnight. The reaction mixture was diluted with 100 mL of DCM, and then washed with water (50 mL). The aqueous layer was extracted with DCM (20 mL×2). All organic layers were combined, dried over sodium sulfate, filtered and concentrated. The residue was purified by silica gel chromatography (petroleum ether/ethyl acetate 6/1) to give 4-bromo-1-methyl-1H-pyrrole-2-carboxylic acid amide (56 mg, yield 46%). 1H NMR (300 MHz, CDCl3): δ 6.74 (d, J=1.8 Hz, 1H), 6.59 (d, J=1.8 Hz, 1H), 3.92 (s, 3H). LC-MS calcd for C6H7BrN2O (m/e) 201.97, obsd 203 and 205 [M+1]+.

reactant | 4-Bromo-1-methyl-1H-pyrrole-2-carboxylic acid | 0.60 mmol, 122 mg | BrC=1C=C(N(C1)C)C(=O)O | C6H6BrNO2
reactant | HATU | 0.72 mmol, 274 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 1.50 mmol, 194 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | ammonia | N | H3N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-bromo-1-methyl-1H-pyrrole-2-carboxylic acid amide | 56 mg, yield 46% | BrC=1C=C(N(C1)C)C(=O)N | C6H7BrN2O
